US08957205B2
1-[[[4-(4-Propylpiperazin-1-yl)phenyl]carbonyl]amino]cyclohexanecarboxylic acid ethyl ester
741 mg (3.57 mmol) of 1-aminocyclohexanecarboxylic acid ethyl ester hydrochloride was used instead of 1-aminocyclohexanecarboxylic acid methyl ester hydrochloride and 1.00 g (3.57 mmol) of 4-(4-propylpiperazin-1-yl)benzoic acid hydrochloride was used instead of 3-furancarboxylic acid in the process according to Reference example 15 to obtain 928 mg (65%) of the title compound.

reactant | 1-aminocyclohexanecarboxylic acid ethyl ester hydrochloride | 3.57 mmol, 741 mg | Cl.C(C)OC(=O)C1(CCCCC1)N
reactant | 4-(4-propylpiperazin-1-yl)benzoic acid hydrochloride | 3.57 mmol, 1.00 g | Cl.C(CC)N1CCN(CC1)C1=CC=C(C(=O)O)C=C1
product | 1-[[[4-(4-Propylpiperazin-1-yl)phenyl]carbonyl]amino]cyclohexanecarboxylic acid ethyl ester | 928 mg, 65% | C(C)OC(=O)C1(CCCCC1)NC(=O)C1=CC=C(C=C1)N1CCN(CC1)CCC | C23H35N3O3
